US06703387B2
50 mg (0.158 mmol) of (E)-5-(3,4-dichlorostyryl)-2,3-dihydro-1H-benzo-1,4-diazepine were dissolved in a mixture of 0.1 ml of acetic anhydride and 1 ml of pyridine by heating to 80° C. The mixture was left to cool for 30 minutes then evaporated to dryness and the residue dissolved in water and ethyl acetate. The organic phase was dried over magnesium sulphate, filtered, evaporated to dryness and the residue chromatographed on silica gel using ethyl acetate for the elution. The product was dissolved in a solution of hydrogen chloride in ethyl acetate, evaporated to dryness and the residue dissolved in a small volume of acetone and left to crystallize. There was obtained 12 mg of (E)-1-acetyl-5-(3,4-dichlorostyryl)-2,3-dihydro-1H-1,4-benzodiazepine hydrochloride as an off-white solid. MS: m/e 358.9 [M+H]+.

reactant | (E)-5-(3,4-dichlorostyryl)-2,3-dihydro-1H-benzo-1,4-diazepine | 0.158 mmol, 50 mg | ClC=1C=C(C=C\C\2=N/CCNC3=C2C=CC=C3)C=CC1Cl | C17H14Cl2N2
reactant | acetic anhydride | 0.1 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | (E)-1-acetyl-5-(3,4-dichlorostyryl)-2,3-dihydro-1H-1,4-benzodiazepine hydrochloride | 12 mg | Cl.C(C)(=O)N1CC\N=C(\C2=C1C=CC=C2)/C=CC2=CC(=C(C=C2)Cl)Cl | InChI=1S/C19H16Cl2N2O.ClH/c1-13(24)23-11-10-22-18(15-4-2-3-5-19(15)23)9-7-14-6-8-16(20)17(21)12-14;/h2-9,12H,10-11H2,1H3;1H
